US04014878
A. O-Benzyl-6-nitroveratraldoxime
6-Nitroveratraldoxime (113 g, 0.5 mole) was dissolved in 2500 ml of dimethylformamide. To this solution was added sodium methoxide (27 g, 0.5 mole). The suspension was treated with benzyl chloride (63 g, 0.5 mole) and stirring was continued for an additional 4 hr. The orange suspension was diluted with 3 1. of water and the solid was filtered, m.p. 109°-113°, yield: 110 g (78%). A small amount of the material was recrystallized from toluene to give an analytical sample melting at 116°-117°.

reactant | 6-Nitroveratraldoxime | 0.5 mole, 113 g | [N+](=O)([O-])C1=CC(=C(C=C1C=NO)OC)OC | C9H10N2O5
reactant | sodium methoxide | 0.5 mole, 27 g | C[O-].[Na+]
reactant | benzyl chloride | 0.5 mole, 63 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 2500 ml | CN(C=O)C | C3H7NO
product | O-Benzyl-6-nitroveratraldoxime | C(C1=CC=CC=C1)ON=CC1=CC(OC)=C(OC)C=C1[N+](=O)[O-] | C16H16N2O5
